Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine / Percocet
 
Attending: ___
 
Chief Complaint:
Post dates pregnancy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G7P2 at 41___ presents to L&D for cytotec induction of
labor. She has not had her cervix checked in Dr ___.
She does not have a ride home. She was seen earlier today in the
ED with a URI and was prescribed azithromycin and prednisone but
has not filled those prescriptions. 

Denies VB, LOF, ctx. Reports AFM. No CP/SOB/wheeze. No HA/visual
changes/RUQ pain.

 
Past Medical History:
PNC:
- ___: ___ by 6week u/s not c/w LMP 
- Labs: A+/Ab-/RI/RPR NR/HBsAg-/GBS unk
- FFS, GLT, GBS results not available but normal per pt
Issues:
- current pregnancy dated by 6 wk ultrasound- reportedly had IUD
in place; ultrasound failed to demonstrate IUD within or outside
of uterus.  
- Per Dr ___, uncomplicated antenatal course, other 
than
episode of trauma at 28 wks.
- ultrasound at 40.1 wks noted an EFW of 3341g ___ 
percentile).
- h/o crack cocaine use w/ prior pregnancy, now clean
- h/o domestic violence
- h/o pre-eclampsia w/previous pregnancy

PAST OBSTETRIC HISTORY: records inconsistent.
G7P2
___ SVD, c/b pre-E, 7#7 
___ SVD, 6#6
SAB x 3
TAB x 1

PAST GYNECOLOGICAL HISTORY
- h/o Chlamydia, TOC neg
- h/o abnl pap, LSIL at initial OB visit

PAST MEDICAL HISTORY
- Asthma, no steriods, no intubation, last hospitalized ___ ago,
uses daughter's inhaler
- h/o ADD/ADHD, depression, anxiety, PTSD, ?bipolar d/o, 
multiple
suicide attempts
- Pulmonary nodule, PPD negative ___

PAST SURGICAL HISTORY
- tonsillectomy
- drainage abscess R elbow
- D&C x2

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Exam on admission: 
VS 98.0 75 129/75 18 98-99%RA, ___ 145
A&O NARD
RRR
CTAB no wheezes, rare bronchial breath sounds
Abd soft, gravid nontender
EFW 8# by ___
Ext NT no edema

SVE ___
Toco ___
FHT 140/mod/+accels/-decels

 
Pertinent Results:
___ 08:56AM BLOOD WBC-13.0* RBC-3.47* Hgb-9.9* Hct-29.5* 
MCV-85 MCH-28.5 MCHC-33.5 RDW-14.1 Plt ___
___ 12:19PM BLOOD WBC-14.4* RBC-3.87* Hgb-11.1* Hct-32.8* 
MCV-85 MCH-28.8 MCHC-33.9 RDW-14.0 Plt ___
___ 12:19PM BLOOD Neuts-71.3* ___ Monos-5.0 Eos-0.6 
Baso-0.2
___ 12:19PM BLOOD Glucose-92 UreaN-5* Creat-0.5 Na-138 
K-3.9 Cl-106 HCO3-20* AnGap-16
___ 10:26PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-300 Ketone-80 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 12:19PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
 
Brief Hospital Course:
Ms. ___ was admitted to the L+D for post dates induction of 
labor. She had a succesful induction with cytotec and pitocin 
and delivered a liveborn infant without complications. 

Her post-partum course was uncomplicated.  Social work saw her 
due to her complex history.  Her pani was well controlled, she 
was ambulatory and eating a regular diet. She was discharged on 
post-partum day 2 with follow-up. 
 
Medications on Admission:
- PNV
- albuterol (___)
- prescribed azithromycin (Zpack) and prednisone in ED, rx not
yet filled

 
Discharge Medications:
1. Motrin 800 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p vaginal delivery

 
Discharge Condition:
stable

 
Discharge Instructions:
No heavy lifting or intercourse
 
Followup Instructions:
___